US09238639B2
D) 5-Chloro-2-fluoro-3-methoxybenzenethiol
To a mixture of 5-chloro-2-fluoro-1-methoxy-3-(methylsulfinyl)benzene (501 mg) and CH3CN (20 mL) was added TFAA (0.953 mL) at 0° C. The mixture was stirred at 0° C. for 1 h and then at room temperature for 1 h. The mixture was concentrated. The residue was dissolved in a mixture of MeOH (3.5 mL) and TEA (3.5 mL) at 0° C. The solution was stirred at 0° C. for 10 min, and concentrated in vacuo. The mixture was diluted with saturated aqueous NH4Cl and extracted with EtOAc. The organic layer was extracted with 1N NaOH. The aqueous layer was acidified with 1N HCl and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo to give the title compound (303 mg).

reactant | 5-chloro-2-fluoro-1-methoxy-3-(methylsulfinyl)benzene | 501 mg | ClC=1C=C(C(=C(C1)OC)F)S(=O)C | C8H8ClFO2S
reactant | TFAA | 0.953 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | 5-Chloro-2-fluoro-3-methoxybenzenethiol | 303 mg | ClC=1C=C(C(=C(C1)S)F)OC | C7H6ClFOS
